US08030305B2
(2-Chloro-quinolin-6-yl)-acetic acid methyl ester (0.160 g, 0.679 mmol), hydrazine (0.218 g, 6.79 mmol) and methanol (3 mL) were stirred at room temperature. The reaction was evaporated to give (2-chloro-quinolin-6-yl)-acetic acid hydrazide. This compound was not purified and was used directly in the next step. 1H NMR (400 MHz, DMSO-d6) δ 9.39 (m, 1H), 8.43 (d, 1H, J=9.2 Hz), 7.91 (m, 2H), 7.75 (m, 1H), 7.58 (m, 1H), 4.30 (bs, 2H), 3.57 (s, 2H).

reactant | (2-Chloro-quinolin-6-yl)-acetic acid methyl ester | 0.679 mmol, 0.160 g | COC(CC=1C=C2C=CC(=NC2=CC1)Cl)=O | C12H10ClNO2
reactant | hydrazine | 6.79 mmol, 0.218 g | NN | H4N2
solvent | methanol | 3 mL | CO | CH4O
product | (2-chloro-quinolin-6-yl)-acetic acid hydrazide | ClC1=NC2=CC=C(C=C2C=C1)CC(=O)NN | C11H10ClN3O
